US09062329B2
The following results were performed in a 2 L fermenter with 1 L working volume. In these fermentation runs, glycerol was used as carbon source. Low dissolved oxygen concentrations of 5% showed about 60% yield of arabitol based on total glycerol consumed. More aerobic conditions with dissolved oxygen concentrations above 5% were also good for cell growth rate and 5% dissolved oxygen was good for arabitol production. FIG. 9 shows total arabitol yield for 5, 10, and 20% dissolved oxygen concentrations.

reactant | oxygen | O=O | O2
reactant | glycerol | OCC(O)CO | C3H8O3
product | arabitol | about 60% yield | C([C@H](C([C@@H](CO)O)O)O)O | C5H12O5
